US04695575
A mixture of 8.35 parts of thiourea, 26 parts of 2-chloro-1-[(4-fluorophenyl)methyl]-1H-benzimidazole and 400 parts of ethanol was stirred and refluxed for 5 hours. The reaction mixture was evaporated. The residue was suspended in 2,2'-oxybispropane. The precipitated product was filtered off and crystallized from ethanol, yielding 6.1 parts of 1-[(4-fluorophenyl)methyl]-1H-benzimidazole-2-thiol; mp. 194.7° C. (62).

reactant | thiourea | NC(=S)N | CH4N2S
reactant | 2-chloro-1-[(4-fluorophenyl)methyl]-1H-benzimidazole | ClC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C14H10ClFN2
solvent | ethanol | C(C)O | C2H6O
product | 1-[(4-fluorophenyl)methyl]-1H-benzimidazole-2-thiol | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)S | C14H11FN2S
